US07763648B2
Step G. 3a-Methyl-6-(3-oxo-butyl)-1,2,4,5,9a,9b-hexahydro-3aH-9-oxa-cyclopenta[a]naphthalene-3,7-dione
3 N Hydrochloric acid (0.85 mL) was added to a stirred solution of the crude 3a-Methyl-6-[2-(2-methyl-[1,3]dioxolan-2-yl)-ethyl]-1,2,4,5,9a,9b-hexahydro-3aH-9-oxa-cyclopenta[a]naphthalene-3,7-dione in acetone (50 mL) at room temperature. The reaction mixture was stirred at room temperature for 0.5 h. The reaction was quenched with saturated sodium bicarbonate aqueous solution (50 mL), and then the acetone was removed under reduced pressure. The residue was diluted with brine (50 mL), extracted with ethyl acetate (2×100 mL), and the combined organic layer was dried with magnesium sulfate. The resulting solution was filtered and the solvent evaporated to yield an oil, which was used in subsequent steps without further purification.

reactant | Hydrochloric acid | 3 N, 0.85 mL | Cl | ClH
reactant | 3a-Methyl-6-[2-(2-methyl-[1,3]dioxolan-2-yl)-ethyl]-1,2,4,5,9a,9b-hexahydro-3aH-9-oxa-cyclopenta[a]naphthalene-3,7-dione | CC12C(C3OCC(C(=C3CC1)CCC1(OCCO1)C)=O)CCC2=O | C19H26O5
solvent | acetone | 50 mL | CC(=O)C | C3H6O
product | 3a-Methyl-6-(3-oxo-butyl)-1,2,4,5,9a,9b-hexahydro-3aH-9-oxa-cyclopenta[a]naphthalene-3,7-dione | CC12C(C3OCC(C(=C3CC1)CCC(C)=O)=O)CCC2=O | C17H22O4
